US09085555B2
A. (1R,3S,5R)-3-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To a mixture of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (750 mg, 3.30 mmol), (2S)-2-amino-2-(3-chloro-2-fluorophenyl)ethan-1-ol (746 mg, 3.30 mmol) and HBTU (1.75 g, 4.62 mmol) in CH2Cl2 (30 mL) was added under nitrogen DIPEA (2.31 mL, 13.20 mmol). The reaction mixture was stirred at RT overnight. CH2Cl2 and water were added, the layers were separated and the aqueous one back-extracted with CH2Cl2 (×3). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:1 to EtOAc) to give the desired compound as a colorless oil. MS (UPLC/MS): 399.3/401.3 [M+H]+, 443.4/445.3 [M+HCOO]−; tR (HPLC conditions a): 3.28 min.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 3.30 mmol, 750 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | (2S)-2-amino-2-(3-chloro-2-fluorophenyl)ethan-1-ol | 3.30 mmol, 746 mg | N[C@H](CO)C1=C(C(=CC=C1)Cl)F | C8H9ClFNO
reactant | HBTU | 4.62 mmol, 1.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,5R)-3-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(N[C@H](CO)C1=C(C(=CC=C1)Cl)F)=O | C19H24ClFN2O4
